US09340546B2
TFA (2 mL, 25.96 mmol) was added to a stirred solution of tert-butyl N-[5-fluoro-4-(1-methyl-3,6-dihydro-2H-pyridin-4-yl)-3-pyridyl]carbamate (483 mg, 1.571 mmol) in DCM (10 mL) and the reaction stirred at ambient temperature for 6 hours. The solvent was removed in vacuo and the residue azeotroped with DCM (×2) and ether (×2). The residue was passed through a 10 g SCX-2 cartridge and washed with MeOH/DCM mixtures. The product was eluted by washing the cartridge with 2M NH3 in MeOH/DCM mixtures and concentrated in vacuo. The residue was purified by column chromatography (ISCO Companion, 40 g column, eluting with 0 to 10% MeOH/DCM+1% NH4OH, loaded in DCM) to give 5-fluoro-1′-methyl-1′,2′,3′,6′-tetrahydro-[4,4′-bipyridin]-3-amine as an off-white solid (61 mg, 19% Yield over 2 steps). MS (ES+) 208.1.

reactant | TFA | 25.96 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl N-[5-fluoro-4-(1-methyl-3,6-dihydro-2H-pyridin-4-yl)-3-pyridyl]carbamate | 1.571 mmol, 483 mg | FC=1C(=C(C=NC1)NC(OC(C)(C)C)=O)C=1CCN(CC1)C | C16H22FN3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-fluoro-1′-methyl-1′,2′,3′,6′-tetrahydro-[4,4′-bipyridin]-3-amine | 19% Yield | FC=1C(=C(C=NC1)N)C=1CCN(CC1)C | C11H14FN3
